US05585279
Step (c) Preparation of ruthenium bis bipyridyl dichloride.
A mixture of ruthenium trichloride trihydrate (2.5 g), 2,2' bipyridyl (3.0 g) and lithium chloride (5.0 g) was placed in 50 ml of DMF under nitrogen. This mixtrue was stirred and refluxed for 7 hours. The resulting purple/black solution was allowed to cool slowly to about 15° C. with continued stirring. 250 ml of acetone was then added and the flask stoppered under nigrogen. This solution was left at 0° C. for 24 hours. A black microcrystalline solid was recovered by filtration which was washed with water three times and diethyl ether three times.

reactant | ruthenium trichloride trihydrate | 2.5 g | O.O.O.[Ru](Cl)(Cl)Cl
reactant | 2,2' bipyridyl | 3.0 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | lithium chloride | 5.0 g | [Cl-].[Li+]
reactant | acetone | 250 ml | CC(=O)C | C3H6O
solvent | Dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | ruthenium bis bipyridyl dichloride | [Cl-].[Cl-].N1=C(C=CC=C1)C1=NC=CC=C1.N1=C(C=CC=C1)C1=NC=CC=C1.[Ru+2] | InChI=1S/2C10H8N2.2ClH.Ru/c2*1-3-7-11-9(5-1)10-6-2-4-8-12-10;;;/h2*1-8H;2*1H;/q;;;;+2/p-2
